US08039450B2
A mixture of 5-[2-(Carboxymethoxy)-4-cyanophenoxy]-1,3-dihydro-1-hydroxy-2,1-benzoxaborole (D17) (1.00 g, 3.08 mmol), EDCI (1.77 g, 9.24 mmol), HOBT (1.25 g, 9.24 mmol), diethylamine (0.96 mL, 9.24 mmol), and 4-dimethylaminopyridine (75 mg, 0.62 mmol) in DMF (20 mL) was stirred at room temperature overnight. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified with silica gel chromatography (9:1 chloroform/methanol). The combined fractions were put under reduced pressure to remove solvent and then washed with water and toluene. The solvent was again removed under reduced pressure. Another silica gel chromatography column was used (5:5 acetone:hexane). The desired fractions were combined and the solvent was removed under reduced pressure. The residue was recrystallized using hexanes and diisopropylether. Pure 2-(5-cyano-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)phenoxy)-N,N-diethylacetamide (0.662 g, 57%) was obtained.

reactant | 5-[2-(Carboxymethoxy)-4-cyanophenoxy]-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | 3.08 mmol, 1.00 g | C(=O)(O)COC1=C(OC=2C=CC3=C(COB3O)C2)C=CC(=C1)C#N | C16H12BNO6
reactant | EDCI | 9.24 mmol, 1.77 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 9.24 mmol, 1.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diethylamine | 9.24 mmol, 0.96 mL | C(C)NCC | C4H11N
catalyst | 4-dimethylaminopyridine | 0.62 mmol, 75 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-(5-cyano-2-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-5-yloxy)phenoxy)-N,N-diethylacetamide | 0.662 g, 57% | C(#N)C=1C=CC(=C(OCC(=O)N(CC)CC)C1)OC1=CC2=C(B(OC2)O)C=C1 | C20H21BN2O5
